US06441005B1
5-(S)-Acetamidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one
Triphenylphosphine (2.82 g, 10.8 mmol) was added portionwise to a solution of 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one (5.00 g, 9.79 mmol) in THF (40 mL), and the mixture stirred for 2 h at room temperature. Water (1.41 mL, 78.3 mmol) was added, and the mixture heated at 40° C. overnight. Solvent was removed under vacuum, and the oily residue dissolved in dichloromethane (50 mL). Acetic anhydride (4.62 ml, 49.0 mmol) and pyridine (7.92 ml, 97.9 mmol) were added, and the mixture stirred for 8 h at r.t. Solvent was removed under vacuum and the crude product purified by silica gel flash column chromatography (eluent: 30% ethyl acetate in hexanes) to give the product as a foam (4.98 g, 97%); MS (m/z): [M+H]+=527.

reactant | Triphenylphosphine | 10.8 mmol, 2.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | 9.79 mmol, 5.00 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H23FN4O2S
reactant | Water | 78.3 mmol, 1.41 mL | O | H2O
reactant | Acetic anhydride | 49.0 mmol, 4.62 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 97.9 mmol, 7.92 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(S)-Acetamidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | 4.98 g, 97% | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C31H27FN2O3S
